US08030489B2
To a mixture of 4-methoxybenzyl (1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate (2.2 g) and methanol (11 ml) was added p-toluene sulfonic acid hydrate (1.2 g) at room temperature, followed by stirring at 40° C. for 13 hours. Further, p-toluene sulfonic acid hydrate (0.24 g) was added thereto, followed by stirring at 40° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and 1 M hydrochloric acid and diethyl ether were added to the residue. The aqueous layer was separated, and the organic layer was extracted with 1 M hydrochloric acid. The aqueous layer was combined, and sodium hydrogen carbonate was added thereto under ice-cooling to adjust the pH to about 7. The reaction mixture was extracted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 4-methoxybenzyl (1R,2S)-2-aminocyclopentanecarboxylate (1.1 g).

reactant | 4-methoxybenzyl (1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclopentanecarboxylate | 2.2 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC1=CC=C(C=C1)OC | C19H27NO5
reactant | p-toluene sulfonic acid hydrate | 1.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluene sulfonic acid hydrate | 0.24 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 11 ml | CO | CH4O
product | 4-methoxybenzyl (1R,2S)-2-aminocyclopentanecarboxylate | 1.1 g | N[C@@H]1[C@@H](CCC1)C(=O)OCC1=CC=C(C=C1)OC | C14H19NO3
